US07851493B2
To a solution of 32.6 mg of cyclopropyl-[5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl]-carbamic acid phenyl ester in 2 mL of ethylene glycol was added 2 mL of a saturated solution of potassium hydroxide in water. The resulting mixture was stirred in a sealed tube under microwave irradiation for 25 minutes to 100° C., then 10 additional minutes to 120° C. and finally 15 more minutes to 140° C. It was then extracted with dichloromethane. The organic extracts were washed water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient from dichloromethane 100 to dichloromethane 90/methanol 10) to give 9.5 mg of 3-{4-[4-cyclopropylaminomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one.

reactant | cyclopropyl-[5-[3-methoxy-4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxymethyl]-2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethyl]-carbamic acid phenyl ester | 32.6 mg | C1(=CC=CC=C1)OC(N(CC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F)C1CC1)=O | C31H25F3N4O6S
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 3-{4-[4-cyclopropylaminomethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-[1,2,4]oxadiazol-5-one | 9.5 mg | C1(CC1)NCC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C24H21F3N4O4S
